2141-04-03 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Multiple episodes of VT resulting in ICD shocks (~11). Intubated and
   sedated. Given amiodarone 150mg IV x3, started on gtt at 1mg/min. Also
   given lidocaine 100mg IV, started on gtt at 2mg/min. Had two episodes
   of VT at 130s, not detected by ICD. First episode externally shocked at
   125, then 200J with maintained perfusion throughout. Second episode
   eventually detected and successfully ATPed.
   S: Intubated, sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 88 (70 - 98) bpm
   BP: 114/51(66) {107/49(64) - 164/73(92)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
                  Total In:
                                                                    910 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    495 mL
   Urine:
                                                                  1,700 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 34 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.7 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   HEENT: NCAT. ETT in place
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse BS with
   occ wheeze on L.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. 1+ DP and 2+ radial pulses. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # VT: Has a history of VT arrest. ICD interrogation today by cards
   fellow show 2 episodes of VT on [**3-30**] episodes on [**4-2**]. One of the
   latter episodes was shocked after failed ATP, although the other
   episodes were successfully converted with pacing.
   - EP aware of patient
   - Cont mexilitine and metoprolol
   - Keep Mg>2.0, K>4.5
   - Holding digoxin given concern that it may induce arrhythmia
   - Hold amiodarone for now, but if continues to have frequent VT, will
   start gtt.
   - If patient is getting frequent shocks, may need intubation and
   sedation for comfort. If this occurs, will call attending to discuss
   goals of care.
   .
   # Acute on chronic renal failure: Baseline Cr around 1.6, currently
   3.5. Most likely from his lisinopril, as this was increased a few days
   prior to discharge, with his creatinine subsequently trending up to
   2.0. Also consider overdiuresis from furosemide and spironolcatone,
   although he had been on the meds for approximately 1 week before
   discharge with no change in renal function.
   - Replete fluids as above
   - Hold diuretics and ACE-I
   - Renally dose meds and avoid nephrotoxins
   .
   # Chest wall pain: Has a history of CAD, although cardiac cath done
   during recent admission was clean. Does have mildly elevated
   biomarkers, although may be from ICD shock and renal failure. EKG shows
   a paced rhythm. He denies pain currently, although has had significant
   c/o pain after receiving CPR during his recent admission.
   - Cont scheduled tylenol
   - Would use MS IR if pain worsens (responded well in past)
   .
   # Anxiety: Has been acutely worsened since receiving multiple shocks
   during his last admission. At that time, he also had diaphoresis,
   episodes of lightheadedness and palpitations, as well as thinking his
   ICD had fired, despite normal vital signs and no telemetry changes.
   Patient appears calm currently, but may require reassurance.
   - Cont seroquel scheduled and PRN
   - Cont citalopram and clonazepam
   .
   # DVT: Located in LUE per US.
   - Cont warfarin with goal INR 2-2.5 (h/o GI bleed)
   - Continue PPI and sucralfate
   - F/u US in [**3-15**] mos
   .
   # Chronic Systolic heart Failure: LVEF 20% on TTE [**10-19**]. Also has known
   AS, although at last admission refused AVR and valvuloplasty. He
   currently is likely intravascularly dry given his ARF and exam.
   - IVF: NS at 100cc/hr for 500cc for gentle volume resuscitation
   - Cont metoprolol, holding digoxin as above
   - Hold diuretics for now
   .
   # Anemia: Chronic, normocytic. Hct stable at recent baseline of high
   20s to low 30s.
   - Trend hct.
   .
   # CAD: Stable, clean cath [**3-20**].
   - Continue aspirin, statin, beta blocker.
   .
   # Hyperkalemia/Hyponatremia: Mildly hyperkalemic and hyponatremic.
   Would expect hyperK to improve as his renal function improves, and
   would avoid aggressive rx given his propensity for arrhythmias and only
   mild elevation. Difficult to assess EKG given ventricular pacing.
   Hyponatremia is likely from diuresis, possibly as well as poor PO
   intake.
   - NPO for now in case requires intubation. Once taking POs, may need
   mild free water restriction if Na remains low.
   - NS as above
   - Repeat K this pm and tx if >5.5.
   .
   # Ppx: Therapeutic INR, bowel regimen
   .
   # Access: PICC
   .
   # Comm: [**Name (NI) 53**] and wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   .
   # Code: Shocks and intubation okay, but no chest compressions. Dr [**First Name (STitle) **]
   has discussed this with the patient and his wife
   .
   # Dispo: ICU pending monitoring for further VT
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI, sucralfate
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-03 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Multiple episodes of VT resulting in ICD shocks (~11). Intubated and
   sedated. Given amiodarone 150mg IV x3, started on gtt at 1mg/min. Also
   given lidocaine 100mg IV, started on gtt at 2mg/min. Had two episodes
   of VT at 130s, not detected by ICD. First episode externally shocked at
   125, then 200J with maintained perfusion throughout. Second episode
   eventually detected and successfully ATPed.
   S: Intubated, sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 88 (70 - 98) bpm
   BP: 114/51(66) {107/49(64) - 164/73(92)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
                  Total In:
                                                                    910 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    495 mL
   Urine:
                                                                  1,700 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 34 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.7 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   HEENT: NCAT. ETT in place
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse BS with
   occ wheeze on L.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. 1+ DP and 2+ radial pulses. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # VT: Recurrent Vtach and defibrillator unable to pace him out of it.
   Failed multiple antiarrythmics during past admissions.  Goals of care
   addressed overnight.  Plan to turn off defibrillator and keep patient
   comfortable.
   .
   # Intubation: For comfort in setting of recurrent ICD shocks.
   - Continue vent
   - Neo gtt
   .
   # Acute on chronic renal failure: Baseline Cr around 1.6, currently
   2.6.  Possibly from diuresis and lisinopril and poor forward flow from
   Vtach.
   - Hold diuretics and ACE-I
   - Renally dose meds and avoid nephrotoxins
   .
   # Chest wall pain: From previous CPR and shocks.  Intubated now but
   will aim to keep patient comfortable once extubated.
   .
   # Anxiety:  From repeated shocks.
   - Cont seroquel scheduled and PRN
   - Cont citalopram and clonazepam
   .
   # DVT: Located in LUE per US.
   - Cont warfarin with goal INR 2-2.5 (h/o GI bleed)
   - Continue PPI and sucralfate
   - F/u US in [**3-15**] mos
   .
   # Chronic Systolic heart Failure: LVEF 20% on TTE [**10-19**]. Also has known
   AS, although at last admission refused AVR and valvuloplasty. He
   currently is likely intravascularly dry given his ARF and exam.
   - Gentle IVF.
   - Cont metoprolol, holding digoxin as above
   - Hold diuretics for now
   .
   # Anemia: Chronic, normocytic. Hct stable at recent baseline of high
   20s to low 30s.
   - Trend hct.
   .
   # CAD: Stable, clean cath [**3-20**].
   - Continue aspirin, statin, beta blocker
   .
   # Hyperkalemia/Hyponatremia: Likely from volume down.
   - NS as above
   - Monitor K
   .
   # Ppx: Therapeutic INR, bowel regimen
   .
   # Access: PICC
   .
   # Comm: [**Name (NI) 53**] and wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   .
   # Code: For now, shocks and intubation okay, but no chest compressions.
   Dr [**First Name (STitle) **] has discussed this with the patient and his wife.  However,
   given hospital course, will have to readdress with plan to keep patient
   comfortable.
   .
   # Dispo: pending
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI, sucralfate
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-03 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Multiple episodes of VT resulting in ICD shocks (~11). Intubated and
   sedated. Given amiodarone 150mg IV x3, started on gtt at 1mg/min. Also
   given lidocaine 100mg IV, started on gtt at 2mg/min. Had two episodes
   of VT at 130s, not detected by ICD. First episode externally shocked at
   125, then 200J with maintained perfusion throughout. Second episode
   eventually detected and successfully ATPed.
   S: Intubated, sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 88 (70 - 98) bpm
   BP: 114/51(66) {107/49(64) - 164/73(92)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
                  Total In:
                                                                    910 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    495 mL
   Urine:
                                                                  1,700 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 34 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.7 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   HEENT: NCAT. ETT in place
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse BS with
   occ wheeze on L.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. 1+ DP and 2+ radial pulses. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # VT: Recurrent Vtach and defibrillator unable to pace him out of it.
   Failed multiple antiarrythmics during past admissions.  Goals of care
   addressed overnight.  Plan to turn off defibrillator and keep patient
   comfortable.
   .
   # Intubation: For comfort in setting of recurrent ICD shocks.
   - Continue vent
   - Neo gtt
   .
   # Acute on chronic renal failure: Baseline Cr around 1.6, currently
   2.6.  Possibly from diuresis and lisinopril and poor forward flow from
   Vtach.
   - Hold diuretics and ACE-I
   - Renally dose meds and avoid nephrotoxins
   .
   # Chest wall pain: From previous CPR and shocks.  Intubated now but
   will aim to keep patient comfortable once extubated.
   .
   # Anxiety:  From repeated shocks.
   - Cont seroquel scheduled and PRN
   - Cont citalopram and clonazepam
   .
   # DVT: Located in LUE per US.
   - Cont warfarin with goal INR 2-2.5 (h/o GI bleed)
   - Continue PPI and sucralfate
   - F/u US in [**3-15**] mos
   .
   # Chronic Systolic heart Failure: LVEF 20% on TTE [**10-19**]. Also has known
   AS, although at last admission refused AVR and valvuloplasty. He
   currently is likely intravascularly dry given his ARF and exam.
   - Gentle IVF.
   - Cont metoprolol, holding digoxin as above
   - Hold diuretics for now
   .
   # Anemia: Chronic, normocytic. Hct stable at recent baseline of high
   20s to low 30s.
   - Trend hct.
   .
   # CAD: Stable, clean cath [**3-20**].
   - Continue aspirin, statin, beta blocker
   .
   # Hyperkalemia/Hyponatremia: Likely from volume down.
   - NS as above
   - Monitor K
   .
   # Ppx: Therapeutic INR, bowel regimen
   .
   # Access: PICC
   .
   # Comm: [**Name (NI) 53**] and wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   .
   # Code: For now, shocks and intubation okay, but no chest compressions.
   Dr [**First Name (STitle) **] has discussed this with the patient and his wife.  However,
   given hospital course, will have to readdress with plan to keep patient
   comfortable.
   .
   # Dispo: pending
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI, sucralfate
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Multiple episodes of VT, necessitating either ATP, internal shocks or
   external cardioversion
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 70 (70 - 150) bpm
   BP: 100/48(60) {94/48(60) - 164/77(94)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                  1,110 mL
                                                                    908 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    908 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    915 mL
   Urine:
                                                                  1,700 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -590 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 27 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   221 K/uL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED: refractory VT in the setting of
   end-stage cardiomyopathy, CAD and valvular disease
   - goals of care clearly stated by patient before intubation - he wants
   no CPR
   - because no viable options exist for long-term management of his
   arrhythmia and his overall severe heart disease, he and his family
   prefer that he be made comfortable
   - we will stop oral medications and IV antiarrhythmics
   - continue sedation and pain control
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 404**], MD
   on:[**2141-4-3**] 10:25 ------
   Discussed with family: comfort is the major goal
   We will keep intubated and sedated, off antiarrhythmics
   Icd defibrillator function deactivated (pacer still on)
   I expect recurrent ventricular tachycardia, if and when it occurs, to
   result in rapid demise
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-4-3**]
   12:23 ------

2141-04-03 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Multiple episodes of VT resulting in ICD shocks (~11). Intubated and
   sedated. Given amiodarone 150mg IV x3, started on gtt at 1mg/min. Also
   given lidocaine 100mg IV, started on gtt at 2mg/min. Had two episodes
   of VT at 130s, not detected by ICD. First episode externally shocked at
   125, then 200J with maintained perfusion throughout. Second episode
   eventually detected and successfully ATPed.
   S: Intubated, sedated.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 88 (70 - 98) bpm
   BP: 114/51(66) {107/49(64) - 164/73(92)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
                  Total In:
                                                                    910 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    495 mL
   Urine:
                                                                  1,700 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 34 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.7 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   HEENT: NCAT. ETT in place
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse BS with
   occ wheeze on L.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. 1+ DP and 2+ radial pulses. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # VT: Recurrent Vtach and defibrillator unable to pace him out of it.
   Failed multiple antiarrythmics during past admissions.  Goals of care
   addressed overnight.  Plan to turn off defibrillator and keep patient
   comfortable.
   .
   # Intubation: For comfort in setting of recurrent ICD shocks.
   - Continue vent
   - Neo gtt
   .
   # Acute on chronic renal failure: Baseline Cr around 1.6, currently
   2.6.  Possibly from diuresis and lisinopril and poor forward flow from
   Vtach.
   - Hold diuretics and ACE-I
   - Renally dose meds and avoid nephrotoxins
   .
   # Chest wall pain: From previous CPR and shocks.  Intubated now but
   will aim to keep patient comfortable once extubated.
   .
   # Anxiety:  From repeated shocks.
   - Cont seroquel scheduled and PRN
   - Cont citalopram and clonazepam
   .
   # DVT: Located in LUE per US.
   - Cont warfarin with goal INR 2-2.5 (h/o GI bleed)
   - Continue PPI and sucralfate
   - F/u US in [**3-15**] mos
   .
   # Chronic Systolic heart Failure: LVEF 20% on TTE [**10-19**]. Also has known
   AS, although at last admission refused AVR and valvuloplasty. He
   currently is likely intravascularly dry given his ARF and exam.
   - Gentle IVF.
   - Cont metoprolol, holding digoxin as above
   - Hold diuretics for now
   .
   # Anemia: Chronic, normocytic. Hct stable at recent baseline of high
   20s to low 30s.
   - Trend hct.
   .
   # CAD: Stable, clean cath [**3-20**].
   - Continue aspirin, statin, beta blocker
   .
   # Hyperkalemia/Hyponatremia: Likely from volume down.
   - NS as above
   - Monitor K
   .
   # Ppx: Therapeutic INR, bowel regimen
   .
   # Access: PICC
   .
   # Comm: [**Name (NI) 53**] and wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   .
   # Code: For now, shocks and intubation okay, but no chest compressions.
   Dr [**First Name (STitle) **] has discussed this with the patient and his wife.  However,
   given hospital course, will have to readdress with plan to keep patient
   comfortable.
   .
   # Dispo: pending
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI, sucralfate
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Multiple episodes of VT, necessitating either ATP, internal shocks or
   external cardioversion
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 70 (70 - 150) bpm
   BP: 100/48(60) {94/48(60) - 164/77(94)} mmHg
   RR: 12 (10 - 20) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
             Total In:
                                                                  1,110 mL
                                                                    908 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    700 mL
                                                                    908 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    915 mL
   Urine:
                                                                  1,700 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -590 mL
                                                                     -7 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 27 cmH2O
   Plateau: 13 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 5.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   221 K/uL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED: refractory VT in the setting of
   end-stage cardiomyopathy, CAD and valvular disease
   - goals of care clearly stated by patient before intubation - he wants
   no CPR
   - because no viable options exist for long-term management of his
   arrhythmia and his overall severe heart disease, he and his family
   prefer that he be made comfortable
   - we will stop oral medications and IV antiarrhythmics
   - continue sedation and pain control
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 404**], MD
   on:[**2141-4-3**] 10:25 ------

2141-04-03 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Multiple episodes of VT resulting in ICD shocks (~11). Intubated and
   sedated. Given amiodarone 150mg IV x3, started on gtt at 1mg/min. Also
   given lidocaine 100mg IV, started on gtt at 2mg/min. Had two episodes
   of VT at 130s, not detected by ICD. First episode externally shocked at
   125, then 200J with maintained perfusion throughout. Second episode
   eventually detected and successfully ATPed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-2**] 08:00 PM
   Dextrose 50% - [**2141-4-2**] 10:35 PM
   Insulin - Regular - [**2141-4-2**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-3**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (98.9
   HR: 88 (70 - 98) bpm
   BP: 114/51(66) {107/49(64) - 164/73(92)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AV Paced
                  Total In:
                                                                    910 mL
                  PO:
                                                                    360 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    495 mL
   Urine:
                                                                  1,700 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -790 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 34 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5.7 L/min
   Physical Examination
   GENERAL: WDWN male, alert, NAD
   HEENT: NCAT. Sclera anicteric. MM slightly dry.
   NECK: Supple with JVP 8cm
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Chest wall with mild
   TTP.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB except occasional expiratory
   wheeze on R.
   ABDOMEN: NABS. Mildly firm, but nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. Extremities are cool with 1+ DP and 2+
   radial pulses. LUE with 2+ edema.
   SKIN: Ecchymoses on abdomen
   NEURO: A+O x3. CN 2-12 grossly intact. Intermittent resting tremor of
   LUE.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # VT: Has a history of VT arrest. ICD interrogation today by cards
   fellow show 2 episodes of VT on [**3-30**] episodes on [**4-2**]. One of the
   latter episodes was shocked after failed ATP, although the other
   episodes were successfully converted with pacing.
   - EP aware of patient
   - Cont mexilitine and metoprolol
   - Keep Mg>2.0, K>4.5
   - Holding digoxin given concern that it may induce arrhythmia
   - Hold amiodarone for now, but if continues to have frequent VT, will
   start gtt.
   - If patient is getting frequent shocks, may need intubation and
   sedation for comfort. If this occurs, will call attending to discuss
   goals of care.
   .
   # Acute on chronic renal failure: Baseline Cr around 1.6, currently
   3.5. Most likely from his lisinopril, as this was increased a few days
   prior to discharge, with his creatinine subsequently trending up to
   2.0. Also consider overdiuresis from furosemide and spironolcatone,
   although he had been on the meds for approximately 1 week before
   discharge with no change in renal function.
   - Replete fluids as above
   - Hold diuretics and ACE-I
   - Renally dose meds and avoid nephrotoxins
   .
   # Chest wall pain: Has a history of CAD, although cardiac cath done
   during recent admission was clean. Does have mildly elevated
   biomarkers, although may be from ICD shock and renal failure. EKG shows
   a paced rhythm. He denies pain currently, although has had significant
   c/o pain after receiving CPR during his recent admission.
   - Cont scheduled tylenol
   - Would use MS IR if pain worsens (responded well in past)
   .
   # Anxiety: Has been acutely worsened since receiving multiple shocks
   during his last admission. At that time, he also had diaphoresis,
   episodes of lightheadedness and palpitations, as well as thinking his
   ICD had fired, despite normal vital signs and no telemetry changes.
   Patient appears calm currently, but may require reassurance.
   - Cont seroquel scheduled and PRN
   - Cont citalopram and clonazepam
   .
   # DVT: Located in LUE per US.
   - Cont warfarin with goal INR 2-2.5 (h/o GI bleed)
   - Continue PPI and sucralfate
   - F/u US in [**3-15**] mos
   .
   # Chronic Systolic heart Failure: LVEF 20% on TTE [**10-19**]. Also has known
   AS, although at last admission refused AVR and valvuloplasty. He
   currently is likely intravascularly dry given his ARF and exam.
   - IVF: NS at 100cc/hr for 500cc for gentle volume resuscitation
   - Cont metoprolol, holding digoxin as above
   - Hold diuretics for now
   .
   # Anemia: Chronic, normocytic. Hct stable at recent baseline of high
   20s to low 30s.
   - Trend hct.
   .
   # CAD: Stable, clean cath [**3-20**].
   - Continue aspirin, statin, beta blocker.
   .
   # Hyperkalemia/Hyponatremia: Mildly hyperkalemic and hyponatremic.
   Would expect hyperK to improve as his renal function improves, and
   would avoid aggressive rx given his propensity for arrhythmias and only
   mild elevation. Difficult to assess EKG given ventricular pacing.
   Hyponatremia is likely from diuresis, possibly as well as poor PO
   intake.
   - NPO for now in case requires intubation. Once taking POs, may need
   mild free water restriction if Na remains low.
   - NS as above
   - Repeat K this pm and tx if >5.5.
   .
   # Ppx: Therapeutic INR, bowel regimen
   .
   # Access: PICC
   .
   # Comm: [**Name (NI) 53**] and wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   .
   # Code: Shocks and intubation okay, but no chest compressions. Dr [**First Name (STitle) **]
   has discussed this with the patient and his wife
   .
   # Dispo: ICU pending monitoring for further VT
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI, sucralfate
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Comments:
   Code status: Full, but no chest compressions. If recurrent VT while
   intubated, will turn of ICD, as previously discussed with patient and
   wife by Dr. [**First Name (STitle) **].
   Disposition:

2141-04-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ICD shut off but no overnight events
   S: Intubated and sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 136) bpm
   BP: 104/47(60) {79/44(58) - 130/77(85)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,195 mL
                                                                      3 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    280 mL
   Urine:
                                                                  2,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
   (No new labs [**2141-4-4**])
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # Goals of care: Patient had frequent episodes of vtach and multiple
   ICD shocks at time of admission. Goals of care have been addressed in
   detail between patient, wife, and Dr. [**First Name (STitle) **]. It was decided yesterday
   to turn off the ICD and stop all meds other than fetnanyl/midazolam for
   comfort.
   .
   # VT: ICD off and pt off all meds. No recurrences of  vtach overnight.
   If remains free of arrhythmias for another day, will readdress plan
   with family and Dr. [**First Name (STitle) **].
   .
   # Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition: NPO on vent
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: none
   Stress ulcer: none
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   Code status: DNR, ICD off, no future intubations
   Disposition: ICU

2141-04-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ICD shut off but no overnight events
   S: Intubated and sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 136) bpm
   BP: 104/47(60) {79/44(58) - 130/77(85)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,195 mL
                                                                      3 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    280 mL
   Urine:
                                                                  2,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
   (No new labs [**2141-4-4**])
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   Goals of care: Patient had frequent episodes of vtach and multiple ICD
   shocks at time of admission. Goals of care have been addressed in
   detail between patient, wife, and Dr. [**First Name (STitle) **]. It was decided yesterday
   to turn off the ICD and stop all meds other than fetnanyl/midazolam for
   comfort.
   VT: ICD off and pt off all meds. No recurrences of  vtach overnight. If
   remains free of arrhythmias for another day, will readdress plan with
   family and Dr. [**First Name (STitle) **].
   - patient has not had arrythmias since ICD function turned off
   Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition: NPO on vent
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: PPI,
   VAP:  HOB over 30 degrees, chlorhexadine
   Comments:
   Communication:  Wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   Code status: DNR, ICD off, no future intubations
   Disposition: ICU

2141-04-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ICD shut off but no overnight events
   S: Intubated and sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 136) bpm
   BP: 104/47(60) {79/44(58) - 130/77(85)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,195 mL
                                                                      3 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    280 mL
   Urine:
                                                                  2,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
   (No new labs [**2141-4-4**])
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   Goals of care: Patient had frequent episodes of vtach and multiple ICD
   shocks at time of admission. Goals of care have been addressed in
   detail between patient, wife, and Dr. [**First Name (STitle) **]. It was decided yesterday
   to turn off the ICD and stop all meds other than fetnanyl/midazolam for
   comfort.
   VT: ICD off and pt off all meds. No recurrences of  vtach overnight. If
   remains free of arrhythmias for another day, will readdress plan with
   family and Dr. [**First Name (STitle) **].
   - patient has not had arrythmias since ICD function turned off
   Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition: NPO on vent
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: PPI,
   VAP:  HOB over 30 degrees, chlorhexadine
   Comments:
   Communication:  Wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   Code status: DNR, ICD off, no future intubations
   Disposition: ICU
   ------ Protected Section ------
   No further vt
   Will lighten up on sedation and extubate
   Start beta blocker
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-4-4**]
   10:44 ------

2141-04-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ICD shut off but no overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 136) bpm
   BP: 104/47(60) {79/44(58) - 130/77(85)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,195 mL
                                                                      3 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    280 mL
   Urine:
                                                                  2,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ICD shut off but no overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 136) bpm
   BP: 104/47(60) {79/44(58) - 130/77(85)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,195 mL
                                                                      3 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    280 mL
   Urine:
                                                                  2,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   HEENT: NCAT. ETT in place
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse BS with
   occ wheeze on L.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. 1+ DP and 2+ radial pulses. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-04 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -ICD shut off but no overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-4**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 71 (70 - 136) bpm
   BP: 104/47(60) {79/44(58) - 130/77(85)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,195 mL
                                                                      3 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                      3 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    280 mL
   Urine:
                                                                  2,250 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,055 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   HEENT: NCAT. ETT in place
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Coarse BS with
   occ wheeze on L.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: Trace edema b/l LE. 1+ DP and 2+ radial pulses. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   .
   # VT: Recurrent Vtach and defibrillator unable to pace him out of it.
   Failed multiple antiarrythmics during past admissions.  Goals of care
   addressed overnight.  Plan to turn off defibrillator and keep patient
   comfortable.
   .
   # Intubation: For comfort in setting of recurrent ICD shocks.
   - Continue vent
   - Neo gtt
   .
   # Acute on chronic renal failure: Baseline Cr around 1.6, currently
   2.6.  Possibly from diuresis and lisinopril and poor forward flow from
   Vtach.
   - Hold diuretics and ACE-I
   - Renally dose meds and avoid nephrotoxins
   .
   # Chest wall pain: From previous CPR and shocks.  Intubated now but
   will aim to keep patient comfortable once extubated.
   .
   # Anxiety:  From repeated shocks.
   - Cont seroquel scheduled and PRN
   - Cont citalopram and clonazepam
   .
   # DVT: Located in LUE per US.
   - Cont warfarin with goal INR 2-2.5 (h/o GI bleed)
   - Continue PPI and sucralfate
   - F/u US in [**3-15**] mos
   .
   # Chronic Systolic heart Failure: LVEF 20% on TTE [**10-19**]. Also has known
   AS, although at last admission refused AVR and valvuloplasty. He
   currently is likely intravascularly dry given his ARF and exam.
   - Gentle IVF.
   - Cont metoprolol, holding digoxin as above
   - Hold diuretics for now
   .
   # Anemia: Chronic, normocytic. Hct stable at recent baseline of high
   20s to low 30s.
   - Trend hct.
   .
   # CAD: Stable, clean cath [**3-20**].
   - Continue aspirin, statin, beta blocker
   .
   # Hyperkalemia/Hyponatremia: Likely from volume down.
   - NS as above
   - Monitor K
   .
   # Ppx: Therapeutic INR, bowel regimen
   .
   # Access: PICC
   .
   # Comm: [**Name (NI) 53**] and wife, [**Name (NI) 16**] [**Name (NI) 5730**]
   .
   # Code: For now, shocks and intubation okay, but no chest compressions.
   Dr [**First Name (STitle) **] has discussed this with the patient and his wife.  However,
   given hospital course, will have to readdress with plan to keep patient
   comfortable.
   .
   # Dispo: pending
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: Warfarin
   Stress ulcer: PPI, sucralfate
   VAP:  HOB over 30 degrees
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-05 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempted weaning sedation and went into VT around 4pm->resolved with
   increased sedation
   -[**First Name8 (NamePattern2) **] [**Last Name (LF) **], [**First Name3 (LF) 178**] maintain status quo, possibly extubate in am
   -Wanted metoprolol PO but OGT clogged so ordered IV rather than replace
   OGT
   -Second episode of VT around midnight, resolved with sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-4**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2141-4-4**] 01:54 PM
   Metoprolol - [**2141-4-5**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-5**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 180 (71 - 180) bpm
   BP: 143/69(88) {93/43(53) - 143/75(88)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: VT (Ventricular Tachycardia)
             Total In:
                                                                    832 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                    832 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    120 mL
   Urine:
                                                                  1,580 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   Goals of care: Patient had frequent episodes of vtach and multiple ICD
   shocks at time of admission.  In the first 24 hours of admission,
   patient did not have any further episodes of VT, ICD was turned off,
   and patient
s medications were all discontinued with the exception of
   fentanyl and midazolam.  The plan at that time was to readdress goals
   of care if in 48 hours patient did not have any more VT. However, in
   the last 12 hours, patient has had multiple episodes of self-resolving
   VT.
   - will follow-up with Dr. [**First Name (STitle) **] regarding further goals of care in the
   setting of multiple episodes of VT
   - continue Metoprolol for now
   - continue fentanyl and midazolam for now for sedation and comfort
   VT: ICD off and pt off all meds. Patient has had several self resolving
   episodes of VT.
   - see above, will follow-up with Dr. [**First Name (STitle) **] regarding further goals of
   care in the setting of recurrent VT
   Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/Do not reintubate
   Disposition: CCU for now

2141-04-05 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempted weaning sedation and went into VT around 4pm->resolved with
   increased sedation
   -[**First Name8 (NamePattern2) **] [**Last Name (LF) **], [**First Name3 (LF) 178**] maintain status quo, possibly extubate in am
   -Wanted metoprolol PO but OGT clogged so ordered IV rather than replace
   OGT
   -Second episode of VT around midnight, resolved with sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-4**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2141-4-4**] 01:54 PM
   Metoprolol - [**2141-4-5**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-5**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 180 (71 - 180) bpm
   BP: 143/69(88) {93/43(53) - 143/75(88)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: VT (Ventricular Tachycardia)
             Total In:
                                                                    832 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                    832 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    120 mL
   Urine:
                                                                  1,580 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   Goals of care: Patient had frequent episodes of vtach and multiple ICD
   shocks at time of admission.  In the first 24 hours of admission,
   patient did not have any further episodes of VT, ICD was turned off,
   and patient
s medications were all discontinued with the exception of
   fentanyl and midazolam.  The plan at that time was to readdress goals
   of care if in 48 hours patient did not have any more VT. However, in
   the last 12 hours, patient has had multiple episodes of self-resolving
   VT.
   - will follow-up with Dr. [**First Name (STitle) **] regarding further goals of care in the
   setting of multiple episodes of VT
   - continue Metoprolol for now
   - continue fentanyl and midazolam for now for sedation and comfort
   VT: ICD off and pt off all meds. Patient has had several self resolving
   episodes of VT.
   - see above, will follow-up with Dr. [**First Name (STitle) **] regarding further goals of
   care in the setting of recurrent VT
   Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/Do not reintubate
   Disposition: CCU for now
   ------ Protected Section ------
   CMO
   Aiming to lighten up sedation and extubate
   Defibrillator deactivated
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2141-4-5**]
   12:36 ------

2141-04-05 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempted weaning sedation and went into VT around 4pm->resolved with
   increased sedation
   -[**First Name8 (NamePattern2) **] [**Last Name (LF) **], [**First Name3 (LF) 178**] maintain status quo, possibly extubate in am
   -Wanted metoprolol PO but OGT clogged so ordered IV rather than replace
   OGT
   -Second episode of VT around midnight, resolved with sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-4**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2141-4-4**] 01:54 PM
   Metoprolol - [**2141-4-5**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-5**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 180 (71 - 180) bpm
   BP: 143/69(88) {93/43(53) - 143/75(88)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: VT (Ventricular Tachycardia)
             Total In:
                                                                    832 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                    832 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    120 mL
   Urine:
                                                                  1,580 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, SUSTAINED
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-05 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempted weaning sedation and went into VT around 4pm->resolved with
   increased sedation
   -[**First Name8 (NamePattern2) **] [**Last Name (LF) **], [**First Name3 (LF) 178**] maintain status quo, possibly extubate in am
   -Wanted metoprolol PO but OGT clogged so ordered IV rather than replace
   OGT
   -Second episode of VT around midnight, resolved with sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-4**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2141-4-4**] 01:54 PM
   Metoprolol - [**2141-4-5**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-5**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 180 (71 - 180) bpm
   BP: 143/69(88) {93/43(53) - 143/75(88)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: VT (Ventricular Tachycardia)
             Total In:
                                                                    832 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                    832 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    120 mL
   Urine:
                                                                  1,580 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   Goals of care: Patient had frequent episodes of vtach and multiple ICD
   shocks at time of admission. Goals of care have been addressed in
   detail between patient, wife, and Dr. [**First Name (STitle) **]. It was decided yesterday
   to turn off the ICD and stop all meds other than fetnanyl/midazolam for
   comfort.
   VT: ICD off and pt off all meds. No recurrences of  vtach overnight. If
   remains free of arrhythmias for another day, will readdress plan with
   family and Dr. [**First Name (STitle) **].
   - patient has not had arrythmias since ICD function turned off
   Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2141-04-05 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Attempted weaning sedation and went into VT around 4pm->resolved with
   increased sedation
   -[**First Name8 (NamePattern2) **] [**Last Name (LF) **], [**First Name3 (LF) 178**] maintain status quo, possibly extubate in am
   -Wanted metoprolol PO but OGT clogged so ordered IV rather than replace
   OGT
   -Second episode of VT around midnight, resolved with sedation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 350 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2141-4-4**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2141-4-4**] 01:54 PM
   Metoprolol - [**2141-4-5**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2141-4-5**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 180 (71 - 180) bpm
   BP: 143/69(88) {93/43(53) - 143/75(88)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 97%
   Heart rhythm: VT (Ventricular Tachycardia)
             Total In:
                                                                    832 mL
                                                                    242 mL
   PO:
             TF:
   IVF:
                                                                    832 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    120 mL
   Urine:
                                                                  1,580 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -748 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 530 (530 - 530) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 5.6 L/min
   Physical Examination
   GENERAL: WDWN male, intubated, sedated, does not respond to commands
   but occ spont mvmt of feet, facial muscles
   HEENT: NCAT. ETT in place. Pupils 1mm bilat and minimally reactive.
   NECK: Supple with no JVD
   CARDIAC: PMI laterally displaced with prominent apical lift. RRR,
   normal S1, S2. [**3-17**] high-pitched systolic murmur at RUSB with 2/6
   lower-pitched systolic murmur at apex. No r/g. Occasional click-like
   sound near apex.
   LUNGS: CTAB.
   ABDOMEN: NABS. S, nontender and nondistended.
   EXTREMITIES: 1+ edema b/l LE. WWP, distal pulses dopplerable. LUE with
   2+ edema.
   Labs / Radiology
   221 K/uL
   7.3 g/dL
   90 mg/dL
   2.6 mg/dL
   25 mEq/L
   5.0 mEq/L
   56 mg/dL
   97 mEq/L
   131 mEq/L
   22.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2141-4-2**]  06:57 PM
                             [**2141-4-3**]  04:09 AM
   WBC
   6.5
   Hct
   22.8
   Plt
   221
   Cr
   3.1
   2.6
   Glucose
   105
   90
   Other labs: PT / PTT / INR:23.0/36.4/2.2, CK / CKMB /
   Troponin-T:2404/10/, ALT / AST:36/76, Alk Phos / T Bili:151/0.3,
   Differential-Neuts:76.1 %, Lymph:11.6 %, Mono:6.9 %, Eos:5.3 %, LDH:341
   IU/L, Ca++:8.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   73 year old male with CAD, aortic stenosis, VT/VF arrest s/p ICD and
   ablation, CHF (EF 20%) s/p BiV pacer, Afib on coumadin, CRI who
   presents after recent discharge with multiple episodes of VT.
   Goals of care: Patient had frequent episodes of vtach and multiple ICD
   shocks at time of admission. Goals of care have been addressed in
   detail between patient, wife, and Dr. [**First Name (STitle) **]. It was decided to turn off
   the ICD and stop all meds other than fetnanyl/midazolam for comfort.
   VT: ICD off and pt off all meds. Patient has had several self resolving
   episodes of VT.
   - patient has not had arrythmias since ICD function turned off
   Intubation: Was intubated for comfort in setting of recurrent ICD
   shocks.
   - Continue vent with midazolam/fentanyl for comfort.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2141-4-2**] 02:25 PM
   18 Gauge - [**2141-4-2**] 08:11 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/Do not reintubate
   Disposition: CCU for now